US07371743B2
(d) 3-(2-chloro-ethoxy)-propionic acid
2.00 g (11.1 mmol) ethyl 3-(2-chloro-ethoxy)-propionate are suspended in 8 ml of ethanol and 4.96 ml (16.6 mmol) of 8% lithium hydroxide solution are added. The mixture is stirred for 4 hours at ambient temperature, then evaporated down i. vac., acidified with 2-molar hydrochloric acid, combined with diethyl ether and dried over sodium sulphate. Then it is filtered off and evaporated down i. vac.

reactant | ethyl 3-(2-chloro-ethoxy)-propionate | 11.1 mmol, 2.00 g | ClCCOCCC(=O)OCC | C7H13ClO3
reactant | lithium hydroxide | 16.6 mmol, 4.96 ml | [OH-].[Li+]
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 3-(2-chloro-ethoxy)-propionic acid | ClCCOCCC(=O)O | C5H9ClO3
